US07507729B2
a) (3-Methyl-2-oxo-2H-pyridin-1-yl)-acetic acid ethyl ester
A mixture of 2-hydroxy-3-methyl-pyridine (4.1 g, 37 mmol), ethyl bromoacetate (5.9 g, 35 mmol) and potassium carbonate (4.9 g, 35 mmol) in DMF (60 ml) was stirred at rt for 16 h. After evaporation of the solvent and extractive workup (ethyl acetate/water) the organic phase was concentrated and chromatographed (SiO2, heptane:ethyl acetate=100:0 to 40:60). The title compound elutes as the second product and was isolated as a colorless liquid (6.1g, 84%). MS: m/e=196.0[M+H]+.

reactant | 2-hydroxy-3-methyl-pyridine | 37 mmol, 4.1 g | OC1=NC=CC=C1C | C6H7NO
reactant | ethyl bromoacetate | 35 mmol, 5.9 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 35 mmol, 4.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | (3-Methyl-2-oxo-2H-pyridin-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C(C(=CC=C1)C)=O)=O | C10H13NO3
